US08314138B2
Part B. To a solution of 2-{6-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (150 mg, 0.33 mmol, 1.0 equiv) in ethyl acetate/ethanol (1:1) was added Pd/C (70 mg, 10%). The flask was first purged with nitrogen, then with hydrogen in a Parr apparatus. The reaction mixture was stirred at ambient temperature for 12 hr at 50 psi. Upon completion by LCMS, the reaction mixture was diluted with ethyl acetate, filtered through Celite and concentrated in vacuo. The crude product was purified by preparative HPLC (acetonitrile/water, 0.1% trifluoroacetic acid) to afford 2-{6-[2-(4-fluoro-phenyl)-ethyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (113 mg, 75%). 1H NMR (400 MHz, CD2Cl2) δ 9.15 (s, 1H), 8.36 (s, 1H), 7.33-7.37 (m, 2H), 7.13-7.16 (m, 2H), 7.03-7.08 (m, 2H), 6.92-6.96 (m, 2H), 6.20 (bs, 1H), 4.56 (d, J=4.0 Hz, 2H), 3.08-3.14 (m, 4H), 2.72 (s, 3H); HRMS (M+H)+=451.15.

reactant | 2-{6-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 0.33 mmol, 150 mg, 1.0 equiv | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)\C=C\C2=CC=C(C=C2)F)C)C=C1 | C24H18F2N4OS
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 2-{6-[2-(4-fluoro-phenyl)-ethyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 113 mg, 75% | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)CCC2=CC=C(C=C2)F)C)C=C1 | C24H20F2N4OS
